US07875640B2
3-bromo-4-cyclobutoxybenzonitrile
3-Bromo-4-hydroxybenzonitrile (2.0 g, 10.1 mmol), bromocyclobutane (2.7 g, 20.2 mmol), and K2CO3 (2.8 g, 20.2 mmol) were mixed in 5 mL of DMF and heated at 60° C. for 72 hours. The reaction was diluted with EtOAc washed with water, brine dried with MgSO4 and the solvent was removed. The product was purified by flash chromatography using a gradient from 0 to 30% EtOAc in hexane to provide the title compound. 1H NMR (300 MHz, CHLOROFORM-D) δ ppm 1.69-1.82 (m, 1H) 1.87-2.00 (m, 1H) 2.21-2.35 (m, 2H) 2.45-2.57 (m, 2H) 4.69-4.79 (m, 1H) 6.76 (d, J=8.48 Hz, 1H) 7.53 (dd, J=8.48, 2.03 Hz, 1H) 7.82 (d, J=2.03 Hz, 1H). MS (DCI/NH3) m/z 251.9 (M+H)+.

reactant | 3-Bromo-4-hydroxybenzonitrile | 10.1 mmol, 2.0 g | BrC=1C=C(C#N)C=CC1O | C7H4BrNO
reactant | bromocyclobutane | 20.2 mmol, 2.7 g | BrC1CCC1 | C4H7Br
reactant | K2CO3 | 20.2 mmol, 2.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-bromo-4-cyclobutoxybenzonitrile | BrC=1C=C(C#N)C=CC1OC1CCC1 | C11H10BrNO
